US07091228B2
To a 150 mL flask was added diethyl 2-[2-(4-bromophenyl)-2-oxoethyl]-2-(2-methoxyethyl)malonate (1.59 g, 3.59 mmol) dissolved in acetone (16 mL) and ethanol (16 mL), followed by addition of 1N aqueous sodium hydroxide solution (3.6 mL). The reaction mixture was then heated at 55° C. for 3 h. The reaction mixture was concentrated in vacuo to remove solvents, the residue redissolved in dimethoxyethane (32 mL), and the reaction mixture heated at 80° C. for 3 h. The reaction mixture was cooled to rt, diluted with ethyl acetate (50 mL) and water (50 mL), and stirred for 15 minutes until almost all color was extracted into the organic layer. The layers were separated, the aqueous layer was extracted with additional ethyl acetate (50 mL), and the combined organic layers were washed with saturated aqueous sodium chloride solution (50 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo, to afford ethyl 4-(4-bromophenyl)-2-(2-methoxyethyl)-4-oxobutanoate (1.06 g, 86%). No further purification of this material was required. LC-MS ret. time 3.18 min, m/z 342.8 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.35 (t, 3H), 1.77–1.92 (m, 1H), 1.94–2.10 (m, 1H), 3.05–3.2 (m, 2H), 3.35–3.50 (m, 3H), 4.09–4.25 (m, 2H), 7.60 (d, 2H), 7.83 (d, 2H).

reactant | diethyl 2-[2-(4-bromophenyl)-2-oxoethyl]-2-(2-methoxyethyl)malonate | 3.59 mmol, 1.59 g | BrC1=CC=C(C=C1)C(CC(C(=O)OCC)(C(=O)OCC)CCOC)=O | C18H23BrO6
reactant | sodium hydroxide | 1N, 3.6 mL | [OH-].[Na+]
solvent | acetone | 16 mL | CC(=O)C | C3H6O
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | ethyl 4-(4-bromophenyl)-2-(2-methoxyethyl)-4-oxobutanoate | 1.06 g, 86% | BrC1=CC=C(C=C1)C(CC(C(=O)OCC)CCOC)=O | C15H19BrO4
